US05378803
Condensation of Z-Phe-OH (15.0 g.) and H-Trp-OCH3 (12.8 g.) by the mixed anhydride method using isobutyl chloroformate (6.52 ml.) and triethylamine (10.1 g.) in tetrahydrofuran for a few minutes at -20° C. and then for about 1 hr. at room temperature, isolation of the crude product by ethyl acetate extraction, and purification by crystallization from ether-hexane gave Z-Phe-Trp-OCH3 (21.5 g., 8670 yield).

reactant | Z-Phe-OH | 15.0 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | H-Trp-OCH3 | 12.8 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC | C12H14N2O2
reactant | isobutyl chloroformate | 6.52 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Z-Phe-Trp-OCH3 | 21.5 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C29H29N3O5
